US08735384B2
A vial was charged with Pd(OAc)2 (22.56 mg, 0.101 mmol), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (83 mg, 0.144 mmol) and cesium carbonate (1124 mg, 3.45 mmol). The vial was evacuated and backfilled with nitrogen. This procedure was repeated three times. 2-Bromo-3-methylaniline (0.50 mL, 4.02 mmol), iodobenzene (0.37 mL, 3.35 mmol) and dioxane (10 mL) were added. The reaction mixture was allowed to stir at 110° C. overnight. The reaction mixture was cooled to room temperature and partitioned between water and EtOAc. The organic phase was separated and dried over MgSO4. The remaining residue was purified by flash chromatography (5-15% EtOAc/hexanes). 2-Bromo-3-methyl-N-phenylaniline was obtained as a light-yellow, clear oil.

reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.144 mmol, 83 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | cesium carbonate | 3.45 mmol, 1124 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-Bromo-3-methylaniline | 4.02 mmol, 0.50 mL | BrC1=C(N)C=CC=C1C | C7H8BrN
reactant | iodobenzene | 3.35 mmol, 0.37 mL | IC1=CC=CC=C1 | C6H5I
catalyst | Pd(OAc)2 | 0.101 mmol, 22.56 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-Bromo-3-methyl-N-phenylaniline | BrC1=C(NC2=CC=CC=C2)C=CC=C1C | C13H12BrN
